US06967201B1
1-(4-chloro-5-methoxycarbonylbenzofur-7-yl)piperazine Oxalate
Beginning with 4-chloro-5-methoxycarbonyl-7-bromobenzofuran and 1-tert-butoxycarbonylpiperazine, the title compound was prepared as described.

reactant | 4-chloro-5-methoxycarbonyl-7-bromobenzofuran | ClC1=C(C=C(C2=C1C=CO2)Br)C(=O)OC | C10H6BrClO3
reactant | 1-tert-butoxycarbonylpiperazine | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
product | 1-(4-chloro-5-methoxycarbonylbenzofur-7-yl)piperazine Oxalate | C(C(=O)O)(=O)O.ClC1=C(C=C(C2=C1C=CO2)N2CCNCC2)C(=O)OC | InChI=1S/C14H15ClN2O3.C2H2O4/c1-19-14(18)10-8-11(17-5-3-16-4-6-17)13-9(12(10)15)2-7-20-13;3-1(4)2(5)6/h2,7-8,16H,3-6H2,1H3;(H,3,4)(H,5,6)
